US08383820B2
N-(5-Hydroxy-adamantan-2-yl)-N-methyl-3-phenethyloxy-benzamide
3-Phenethyloxy-benzoic acid (4.2 g, 17 mmol) was dissolved in thionylchloride (30 ml), and the mixture was stirred at 20° C. overnight. The solvent was removed, and 108 mg (0.41 mmol) of this acid chloride was added to a solution of 1-hydroxy-4-methylaminoadamantane (75 mg, 0.41 mmol) and DIPEA (0.14 ml, 0.83 mmol) in DCM/DMF (1:1, 4 ml). After stirring the reaction mixture at 20° C. overnight, the solution was concentrated in vacuo and purified by preparative LC-MS to give 95 mg of the title compound as a mixture of two isomers. 1H NMR (400 MHz, CDCl3): δ 7.21-7.36 (m, 6 H), 6.89-7.00 (m, 3 H), 4.10-4.23 (m, 3 H), 3.05-3.16 (m, 5 H), 2.54 (d, 2 H), 2.24 (d, 1 H), 1.49-2.04 (m, 11 H).

reactant | 3-Phenethyloxy-benzoic acid | 17 mmol, 4.2 g | C(CC1=CC=CC=C1)OC=1C=C(C(=O)O)C=CC1 | C15H14O3
reactant | 1-hydroxy-4-methylaminoadamantane | 0.41 mmol, 75 mg | OC12CC3C(C(CC(C1)C3)C2)NC | C11H19NO
reactant | DIPEA | 0.83 mmol, 0.14 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | thionylchloride | 30 ml | S(=O)(Cl)Cl | Cl2OS
solvent | DCM DMF | 4 ml | C(Cl)Cl.CN(C)C=O
product | N-(5-Hydroxy-adamantan-2-yl)-N-methyl-3-phenethyloxy-benzamide | 95 mg | OC12CC3C(C(CC(C1)C3)C2)N(C(C2=CC(=CC=C2)OCCC2=CC=CC=C2)=O)C | C26H31NO3
